US08609647B2
(10) Optically-Active Compound of 3-methyl-1,6-diazaspiro[3,5]nonane-1-carboxylic acid 1-benzyl ester
To a solution of an optically-active compound of 3-methyl-1,6-diazaspiro[3,5]nonane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester (5.54 g) in chloroform (83 ml) cooled to 4° C. was added a solution of trifluoroacetic acid/chloroform (28 ml/55 ml), and the mixture was warmed to room temperature and stirred for additional 2 hours. The reaction mixture was cooled to 4° C., and thereto was added 4M aqueous sodium hydroxide solution (90 ml). The mixture was basified to be pH 9 to 10, and extracted with chloroform/methanol (4/1, 60 ml×2) twice. The combined organic layer was sequentially washed with 5% aqueous sodium bicarbonate solution, 10% aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol/28% ammonia water=90/10/1) to give the titled compound (2.20 g).

reactant | 3-methyl-1,6-diazaspiro[3,5]nonane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester | 5.54 g | C(C)(C)(C)OC(=O)N1CC2(C(CN2C(=O)OCC2=CC=CC=C2)C)CCC1 | C21H30N2O4
reactant | trifluoroacetic acid chloroform | 28 ml | FC(C(=O)O)(F)F.C(Cl)(Cl)Cl
reactant | sodium hydroxide | 4M, 90 ml | [OH-].[Na+]
solvent | chloroform | 83 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methyl-1,6-diazaspiro[3,5]nonane-1-carboxylic acid 1-benzyl ester | 2.20 g | C(C1=CC=CC=C1)OC(=O)N1CC(C12CNCCC2)C | C16H22N2O2
